US08242104B2
Diisopropyl azodicarboxylate (1160 uL, 5.90 mmol) was added dropwise to a mixture of 2-(1-trityl-1H-imidazol-2-yl)ethanol (1900 mg, 5.4 mmol), methyl 5-hydroxy-6-iodonicotinate (1570 mg, 5.63 mmol) and Triphenylphosphine (1550 mg, 5.90 mmol) in Tetrahydrofuran (45.0 mL, 555 mmol) at 0° C. After stirring for 3 hours the mixture was mixed with water and extracted with ethyl acetate. The organic layer was washed with water, brine, dried over MgSO4 and concentrated in vacuum. The residue was purified on 40 g silica column eluting with 50% ethyl acetate in DCM to give 1.45 g (44%) of methyl 6-iodo-5-(2-(1-trityl-1H-imidazol-2-yl)ethoxy)nicotinate. MS (ESI+): 616.0. 1H NMR (400 MHz, CDCl3) δ 8.52 (d, J=1.9, 1H), 7.40-7.28 (m, 10H), 7.20-7.16 (m, 6H), 6.99 (d, J=1.5, 1H), 6.81 (d, J=1.5, 1H), 3.98-3.91 (m, 5H), 2.46 (t, J=7.3, 2H).

reactant | Diisopropyl azodicarboxylate | 5.90 mmol, 1160 uL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | 2-(1-trityl-1H-imidazol-2-yl)ethanol | 5.4 mmol, 1900 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=NC=C1)CCO | C24H22N2O
reactant | methyl 5-hydroxy-6-iodonicotinate | 5.63 mmol, 1570 mg | OC=1C(=NC=C(C(=O)OC)C1)I | C7H6INO3
reactant | Triphenylphosphine | 5.90 mmol, 1550 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Tetrahydrofuran | 555 mmol, 45.0 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | methyl 6-iodo-5-(2-(1-trityl-1H-imidazol-2-yl)ethoxy)nicotinate | 1.45 g, 44% | IC1=NC=C(C(=O)OC)C=C1OCCC=1N(C=CN1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C31H26IN3O3
